US04073910
dl-α-tocopherol is reacted with nicotinic anhydride or hydrochloride of nicotinic chloride which are reactive derivatives from nicotinic acid, in the presence of pyridine, to form the reaction product, which is then subjected to after-treatment, and finally purified through column chromatography to provide pure dl-α-tocopheryl nicotinate.

reactant | dl-α-tocopherol | CC1=C(C(=C2CCC(OC2=C1C)(C)CCCC(C)CCCC(C)CCCC(C)C)C)O | C29H50O2
reactant | nicotinic anhydride | C(C1=CN=CC=C1)(=O)OC(C1=CN=CC=C1)=O | C12H8N2O3
reactant | hydrochloride | Cl | ClH
reactant | nicotinic chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | dl-α-tocopheryl nicotinate | CC1=C2C(=C(C(=C1C)OC(=O)C3=CN=CC=C3)C)CC[C@@](O2)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C | C35H53NO3
